US09084794B2
b) (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methylquinolin-7-yl)phenyl)acetamide
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (0.223 mmol) in dry 1,4-dioxane (1.5 mL) was treated with bis(pinacolato)diboron (0.268 mmol), potassium acetate (0.499 mmol) and PdCl2(dppf)-CH2Cl2 adduct (0.011 mmol). The solution was degassed with nitrogen, sealed, and stirred at 100° C. for 3 hours. The reaction mixture was cooled to room temperature and was treated with 7-bromo-3-methylquinoline (0.223 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.011 mmol) and 2M aq potassium carbonate (0.669 mmol). The reaction vessel was purged with nitrogen gas, sealed, and irradiated in a Biotage Initiator Microwave at 120° C. for 15 minutes. The resulting black mixture was diluted with water (50 mL) and extracted with dichloromethane three times. The combined organic layer was treated with Silicycle Si-thiol (30 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-10% methanol/dichloromethane followed by 30% methanol/dichloromethane) and resolution by chiral HPLC (Chromegachiral CC4, methanol) afforded the title compound in >99% ee (31% yield). MS(ES)+ m/e 503.2 [M+H]+. αD=+ 38 deg (c=0.03, methanol).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.223 mmol | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | bis(pinacolato)diboron | 0.268 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.499 mmol | C(C)(=O)[O-].[K+]
reactant | 7-bromo-3-methylquinoline | 0.223 mmol | BrC1=CC=C2C=C(C=NC2=C1)C | C10H8BrN
reactant | potassium carbonate | 0.669 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.011 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.011 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-methylquinolin-7-yl)phenyl)acetamide | 31% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=C(C=NC1=C2)C)F)=O | C29H31FN4O3
